US07705042B2
b) 4-[3-(4-Methyl-piperidin-1-yl)-4-nitro-phenyl]-piperazine-1-carboxylic acid tert-butyl ester
A solution of 235 mg (0.772 mmol) of 1-[3-(4-methyl-piperidin-1-yl)-4-nitro-phenyl]-piperazine (as prepared in the previous step) and 253 mg (1.16 mmol) of di-t-butyl dicarbonate in 8 mL of THF-dichloromethane (1:1) was stirred at RT for 26 h and then concentrated in vacuo. Chromatography of the resulting oil on a 10-g silica SPE column with 50% dichloromethane-hexane followed by 2-5% EtOAc-dichloromethane afforded 300 mg (96%) of the title compound as a crystalline yellow solid: Mass spectrum (ESI, m/z): Calcd. for C21H32N4O4, 405.2 (M+H), found 405.1.

reactant | 1-[3-(4-methyl-piperidin-1-yl)-4-nitro-phenyl]-piperazine | 0.772 mmol, 235 mg | CC1CCN(CC1)C=1C=C(C=CC1[N+](=O)[O-])N1CCNCC1 | C16H24N4O2
reactant | di-t-butyl dicarbonate | 1.16 mmol, 253 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF dichloromethane | 8 mL | C1CCOC1.ClCCl
product | 4-[3-(4-Methyl-piperidin-1-yl)-4-nitro-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 300 mg, 96% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])N1CCC(CC1)C | C21H32N4O4
